US05593993
N-(2-[1-cyclohexenyl]ethyl)-N'-[2-thiazolyl]thiourea
A solution of 2-(1-cyclohexenyl)ethyl isothiocyanate (3.3 g, 20 mmol) and 2-aminothiazole (2.0 g, 20 mmol) in N,N-dimethylformamide (20 mL) was heated at 100° C. for 24 h. The reaction was cooled to room temperature, poured into ethyl acetate, washed with water, 1N aqueous HCl, water, saturated sodium bicarbonate, and brine. The organic layer was concentrated and the residue recrystallized from ethyl acetate to provide 2.66 g (50%) of the title product:

reactant | 2-(1-cyclohexenyl)ethyl isothiocyanate | 20 mmol, 3.3 g | C1(=CCCCC1)CCN=C=S | C9H13NS
reactant | 2-aminothiazole | 20 mmol, 2.0 g | NC=1SC=CN1 | C3H4N2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-(2-[1-cyclohexenyl]ethyl)-N'-[2-thiazolyl]thiourea | 2.66 g, 50% | C1(=CCCCC1)CCNC(=S)NC=1SC=CN1 | C12H17N3S2
